US05587515
To 4 moles of methyl acrylate were added 8.8 moles of dimethylaminopropylamine and the mixture was subjected to an addition reaction in the same manner as in Comparative Example 2. Then sodium methoxide was added thereto to conduct the amidation reaction. After completion of the reaction, the low-boiling-point substances were removed by distillation to give a crude N-dimethylaminopropyl-beta-dimethylaminopropylaminopropionamide. This contained about 13% of high-boiling-point impurities.

reactant | methyl acrylate | 4 moles | C(C=C)(=O)OC | C4H6O2
reactant | dimethylaminopropylamine | 8.8 moles | CN(C)CCCN | C5H14N2
reactant | sodium methoxide | C[O-].[Na+]
product | N-dimethylaminopropyl-beta-dimethylaminopropylaminopropionamide | CN(C)CCCNC(C(C)NCC(C)N(C)C)=O | C13H30N4O
